US07989454B2
4-{2-(2-Carboxy-ethyl)-3-[7-(5-dimethylcarbamoyl-3′-fluoro-biphenyl-3-yl)-hept-6-ynyl]-phenoxy}-butyric acid
To a solution of 4-[3-[7-(3-bromo-5-dimethylcarbamoyl-phenyl)-hept-6-ynyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid (80 mg, 0.14 mmol) in EtOH (4 mL)/H2O (1 mL) were added 3-fluorophenylboronic acid (39 mg, 0.28 mmol), potassium carbonate (77 mg, 0.56 mmol) and Pd(PPh3)4 (3 mg, 0.0028 mmol). The mixture was heated at 78° C. for 5 h and then cooled to room temperature. The reaction mixture was filtered using a syringe filter 0.45 μm and the filtrate was concentrated under reduced pressure. The crude oil was then purified by preparative HPLC using acetonitrile/water gradient.

reactant | 4-[3-[7-(3-bromo-5-dimethylcarbamoyl-phenyl)-hept-6-ynyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid | 0.14 mmol, 80 mg | BrC=1C=C(C=C(C1)C(N(C)C)=O)C#CCCCCCC=1C(=C(OCCCC(=O)O)C=CC1)CCC(=O)O | C29H34BrNO6
reactant | H2O | 1 mL | O | H2O
reactant | 3-fluorophenylboronic acid | 0.28 mmol, 39 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 0.56 mmol, 77 mg | C([O-])([O-])=O.[K+].[K+]
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.0028 mmol, 3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{2-(2-Carboxy-ethyl)-3-[7-(5-dimethylcarbamoyl-3′-fluoro-biphenyl-3-yl)-hept-6-ynyl]-phenoxy}-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCC#CC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=CC=C1)F | C35H38FNO6
